US07855227B2
Step B 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-N,N-dimethyl-acetamide hydrochloride
1.06 g (22 mmol) of NaBH4 were added portionwise to a mixture 2.9 g (9.3 mmol) of 2-[2-(3-benzyloxy-phenyl)-ethylamino]-N,N-dimethyl-acetamide, 1.28 ml (14.1 mmol) of tetrahydrofuran-3-carbaldehyde and 4 g of 4 Å molecular sieves in 130 ml of 1,2-dichloroethane. The reaction mixture was stirred at room temperature overnight. Aqueous ammonium chloride was added, the solvent was removed under vacuum, the residue was extracted with ethyl acetate and the organic phase was washed with an aqueous saturated solution of K2CO3. The solvent was removed under reduced pressure and the product was dissolved in anhydrous an hydrous hydrochloric acid in ethyl acetate. The solvent was removed and the product was triturated with diethyl ether. 3.2 g (80% yield) of the title compound were isolated as a yellow solid.

reactant | NaBH4 | 22 mmol, 1.06 g | [BH4-].[Na+]
reactant | 2-[2-(3-benzyloxy-phenyl)-ethylamino]-N,N-dimethyl-acetamide | 9.3 mmol, 2.9 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCNCC(=O)N(C)C | C19H24N2O2
reactant | tetrahydrofuran-3-carbaldehyde | 14.1 mmol, 1.28 ml | O1CC(CC1)C=O | C5H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,2-dichloroethane | 130 ml | ClCCCl | C2H4Cl2
product | 2-[[2-(3-Benzyloxy-phenyl)-ethyl]-(tetrahydrofuran-3-ylmethyl)amino]-N,N-dimethyl-acetamide hydrochloride | 3.2 g, 80% yield | Cl.C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN(CC(=O)N(C)C)CC1COCC1 | InChI=1S/C24H32N2O3.ClH/c1-25(2)24(27)17-26(16-22-12-14-28-18-22)13-11-20-9-6-10-23(15-20)29-19-21-7-4-3-5-8-21;/h3-10,15,22H,11-14,16-19H2,1-2H3;1H
